US04000302
The reaction of 4-bromo-3-(bromomethyl)isothiazole (8.5 g) with cysteamine (from cysteamine hydrochloride, 3.76 g) was performed under conditions similar to those described in Example 91. From the reaction there was obtained 4-bromo-3-[(2-aminoethyl)thiomethyl]isothiazole hydrobromide, which, following recrystallisation from ethanol-ether and acetonitrile, gave needles (4.05 g) m.p. 111°-112°. The amine base (2.73 g) was isolated by basification with sodium hydroxide and extraction with chloroform and then dissolved in ethanol and treated with methyl isothiocyanate (0.78 g). The solution was heated under reflux for 30 minutes, concentrated and the residue triturated with ether to yield the crystalline thiourea (2.9 g) m.p. 60°-61°. Recrystallisation from isopropyl acetate gave N-methyl-N'-[2-((4-bromo-3-isothiazolyl)methylthio)ethyl]thiourea (2.3 g) as needles, m.p. 62°-63°: Reaction of N-methyl-N'-[2-((4-bromo-3-isothiazolyl)-methylthio)ethyl]thiourea with lead cyanamide by the procedure of Example 91 gives N-cyano-N'-[2-((4-bromo-3-isothiazolyl)methylthio)ethyl]-N"-methylguanidine. Hydrolysis of the above product according to the procedure of Example 84 gives N-[2-((4-bromo-3 -isothiazolyl)methylthio) ethyl]-N'-methylguanidine hydrochloride.

reactant | 4-bromo-3-(bromomethyl)isothiazole | 8.5 g | BrC=1C(=NSC1)CBr | C4H3Br2NS
reactant | cysteamine | 3.76 g | NCCS | C2H7NS
product | 4-bromo-3-[(2-aminoethyl)thiomethyl]isothiazole hydrobromide | Br.BrC=1C(=NSC1)CSCCN | InChI=1S/C6H9BrN2S2.BrH/c7-5-3-11-9-6(5)4-10-2-1-8;/h3H,1-2,4,8H2;1H
